US07585986B2
As further shown in FIG. 3, the cinnamoyl chloride aziridine intermediate was dissolved in aqueous acetic acid at 0° C., stirred at this temperature for 10 h and worked up as usual. Purification of the crude mixture by column chromatography and crystallization afforded the open chain cinnamoyl chloride intermediate.

reactant | cinnamoyl chloride aziridine | N1CC1.C(C=CC1=CC=CC=C1)(=O)Cl
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | cinnamoyl chloride | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
